US07842713B2
Preparation of Intermediate 274d: Ethyl 2-ethyl-4-[4-(methylsulfonyl)phenoxy]-1-benzofuran-6-carboxylate
A mixture of ethyl 2-ethyl-4-hydroxy-1-benzofuran-6-carboxylate (0.80 g, 3.4 mmol), 4-fluorophenyl methyl sulfone (0.60 g, 3.4 mmol) and Cs2CO3 (1.12 g, 3.4 mmol) in DMF (40 mL) was heated to 100° C. overnight. The reaction was monitored by TLC (petroleum ether/EtOAc 4:1). The mixture was poured into water (50 mL) and extracted with EtOAc (90 mL×3). The organic layer was washed with brine (50 mL×2), dried over Na2SO4 and concentrated. The product was purified via column chromatography on silica gel eluted with petroleum ether/EtOAc (20:1) to afford the desired compound (0.80 g, 60%) as a colorless oil.

reactant | ethyl 2-ethyl-4-hydroxy-1-benzofuran-6-carboxylate | 3.4 mmol, 0.80 g | C(C)C=1OC2=C(C1)C(=CC(=C2)C(=O)OCC)O | C13H14O4
reactant | 4-fluorophenyl methyl sulfone | 3.4 mmol, 0.60 g | CS(=O)(=O)C1=CC=C(C=C1)F | C7H7FO2S
reactant | Cs2CO3 | 3.4 mmol, 1.12 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | water | 50 mL | O | H2O
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | Ethyl 2-ethyl-4-[4-(methylsulfonyl)phenoxy]-1-benzofuran-6-carboxylate | 0.80 g, 60% | C(C)C=1OC2=C(C1)C(=CC(=C2)C(=O)OCC)OC2=CC=C(C=C2)S(=O)(=O)C | C20H20O6S
